US07605168B2
Synthesis of 4-(3,4-Dimethoxy-phenyl)-1H-indole 128
In a microwave safe tube, 4-Bromoindole (1.383 g, 0.007054 mol), 3,4-dimethoxyphenyl boronic acid (3.21 g, 0.0176 mol), and Tetrakis(triphenylphosphine)palladium(0) (0.41 g, 0.00035 mol) were mixed in 1.00 M of Potassium carbonate in Water (21 mL) and Tetrahydrofuran (34 mL, 0.42 mol). The resulting mixture was heated at 100° Celsius in the microwave for 10 minutes. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the organic layers were combined, washed with brine and dried over sodium sulfate. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (30% ethyl acetate in hexanes) to the yield 1.02 g of the titled compound as a light green solid. MS(ESI) [M+H+]+=254.20.

reactant | 4-Bromoindole | 0.007054 mol, 1.383 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 3,4-dimethoxyphenyl boronic acid | 0.0176 mol, 3.21 g | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | Tetrahydrofuran | 0.42 mol, 34 mL | O1CCCC1 | C4H8O
solvent | Potassium carbonate | 1.00 M | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 21 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.00035 mol, 0.41 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,4-Dimethoxy-phenyl)-1H-indole | COC=1C=C(C=CC1OC)C1=C2C=CNC2=CC=C1 | C16H15NO2
